US07858640B2
2-(4-methanesulfonylbenzyl)-3-oxopentanoic Acid Methyl Ester
A suspension of potassium tert-butoxide (2.7 g) in anhydrous tetrahydrofuran (35 mL) at 0° C. was treated with a mixture of tert-butanol (0.1 mL) and 3-oxopentanoic acid methyl ester (3.2 g). After stirring at room temperature for 15 minutes a solution of 1-chloromethyl-4-methanesulfonylbenzene (5.0 g) in tetrahydrofuran (15 mL) was added and the resulting mixture heated at 70° C. for 16 hours. The mixture was cooled to room temperature, diluted with water and the tetrahydrofuran removed under reduced pressure. The residue was partitioned between ethyl acetate and dilute aqueous ammonium chloride solution. The aqueous phase was extracted with ethyl acetate and the combined organic phases dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography on silica gel, eluting with a mixture of toluene, dichloromethane and ethyl acetate (1:1:0 to 0:1:0 to 0:4:1 by volume) to afford title compound as a waxy white solid, 3.0 g.

reactant | potassium tert-butoxide | 2.7 g | CC(C)([O-])C.[K+]
reactant | tert-butanol | 0.1 mL | C(C)(C)(C)O | C4H10O
reactant | 3-oxopentanoic acid methyl ester | 3.2 g | COC(CC(CC)=O)=O | C6H10O3
reactant | 1-chloromethyl-4-methanesulfonylbenzene | 5.0 g | ClCC1=CC=C(C=C1)S(=O)(=O)C | C8H9ClO2S
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(4-methanesulfonylbenzyl)-3-oxopentanoic Acid Methyl Ester | COC(C(C(CC)=O)CC1=CC=C(C=C1)S(=O)(=O)C)=O | C14H18O5S
